US07968746B2
Oxidation as described in protocol B, using 101 mg (0.316 mmol) of 6-hydroxy-N-isopentyl-2,5,7,8-tetramethylchroman-2-carboxamide and 380 mg CAN (0.694 mmol) yielded 101.2 mg of 2-hydroxy-N-isopentyl-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-N-isopentyl-2,5,7,8-tetramethylchroman-2-carboxamide | 0.316 mmol, 101 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC(C)C)C)C | C19H29NO3
reactant | CAN | 0.694 mmol, 380 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N-isopentyl-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 101.2 mg | OC(C(=O)NCCC(C)C)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C19H29NO4
